Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:8].[O:1][O:2]/[C:3](=[C:4](/[H:5])[C:6][H:7])[C:9]([H:10])([H:11])[H:12],5.019022367130002
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])[O:9][H:10]>>[H:8].[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7][O:9][H:10],4.16744086711
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:12]([H:13])([H:14])[H:15],4.57200684181
[C:1]=[C:2]([O:3][H:4])[O:5][C:6]#[C:8][H:9].[H:7]>>[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])=[C:8][H:9],-2.29658108886
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15].[H:8]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15],-4.59131376511
[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])[O:4][C:5]#[C:6],6.320766014299999
[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9]>>[C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9].[H:1],5.83241179892
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[O:12][H:13]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[O:12][H:13],0.771937269648
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:4],2.08929673953
[H:1][C:2][C:3]([H:4])([H:5])[O:6]/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])([H:5])[O:6]/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2],4.52402924811
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10]>>[H:6].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:7][C:8]#[C:9][H:10],3.77634571788
[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])[C:5](=[O:6])[C:8]([H:9])([H:10])[H:11].[H:7],3.18569811395
[C:1]/[C:2]([H:3])=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1].[C:2]([H:3])=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10],5.10358048387
[H:1][O:2][C:3]([C:4]#[C:5][H:6])[C:8]([H:9])([H:10])[O:11][H:12].[H:7]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-3.92089072998
[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[O:10][C:11][C:12]([H:13])([H:14])[H:15].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][C:12]([H:13])([H:14])[H:15],-1.81555928734
[H:10].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8]([H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.23921463437
[O:1]=[C:2]=[C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9]>>[C:4]([H:5])[O:6][C:7]([H:8])[H:9].[O:1][C:2][C:3],6.2093253853900015
[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:8]([H:9])([H:10])[H:11].[H:7],2.58686354057
[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9][H:10].[H:11]>>[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-5.01425054651
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][C:2][H:3],5.26679572708
[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.36562130449
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[O:6][C:7][C:8]([H:9])([H:10])[O:11][H:12].[H:5],1.69694923486
[C:1].[C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-5.617760337819999
[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:3]([H:4])#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2],3.15804254182
[C:1]=[C:2]([H:3])[O:4][O:5].[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1][C@:2]([H:3])([O:4][O:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-1.7283795538599998
[C:10]([H:11])[H:12].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:13]([H:14])([H:15])[C:16]([H:17])[H:18]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])[H:18],-5.22014677
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])=[C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])([H:4])[C:5]=[O:6],-1.9770563210900003
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:13].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:14]([H:15])([H:16])[H:17],4.416828313530001
